US09062070B2
To a solution of 4-fluoro-2-methoxybenzonitrile (35 g, 0.23 mol) in 300 mL of concentrated H2SO4 was added NBS (42 g, 0.23 mol) portionwise at −10° C. and the reaction was stirred at r.t. for 2 hours. Then the reaction was poured into 2 L of ice portionwise, and the solid precipitated out was filtered. The filter cake was washed with water, then the solid was dried in vacuo to give 5-bromo-4-fluoro-2-methoxybenzonitrile.

reactant | 4-fluoro-2-methoxybenzonitrile | 0.23 mol, 35 g | FC1=CC(=C(C#N)C=C1)OC | C8H6FNO
reactant | NBS | 0.23 mol, 42 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | H2SO4 | 300 mL | OS(=O)(=O)O | H2O4S
product | 5-bromo-4-fluoro-2-methoxybenzonitrile | BrC=1C(=CC(=C(C#N)C1)OC)F | C8H5BrFNO
